* source JFET
R_R1         N14408 N14433  68k TC=0,0 
R_R2         0 N14408  47k TC=0,0 
R_R3         N14929 N14433  340 TC=0,0 
R_R4         0 N14925  2k TC=0,0 
J_J1         N14929 N14408 N14925 J2N5457 
V_V1         N14433 0 15Vdc
