* source TRANSISTOR
Q_Q1         N14400 N15426 N14419 BC548B_200 
R_Rc         N14400 N14429  120 TC=0,0 
R_Re         0 N14419  29.85 TC=0,0 
V_V1         N14429 0 15Vdc
R_R1         N15426 N14429  4654.5 TC=0,0 
R_R2         0 N15426  880 TC=0,0 
